US06020357
To a stirred suspension of potassium carbonate(40.07 g, 22.60 mmol) in 175 mL acetone was added 1-(4-nitrophenyl) imidazoline-2-thione(5.0 g,22.60 mmol). Dripped iodomethane (1.44 mL,23.05 mmol) into reaction mixture and heated to reflux temperature for 20 h. Concentrated reaction mixture under reduced pressure and took up resulting solid in 200 mL water. Extracted aqueous three times with ethyl acetate. Combined extracts, dried over magnesium sulfate and concentrated in vacuo to give 5.29 g of crude 4-(2'-methylthioimidazol-1-yl)nitrobenzene. 1HNMR(DMSO-d6) δ: 10.45 (s, 1 H) 8.06 (dd, 1 H, J1 =2.0 Hz, J2 =8.0 Hz), 8.38-8.33 (m, 2 H), 7.77-7.72 (m, 2 H), 7.61 (d, 1 H, J=1.5 Hz), 7.14 (d, 1 H, J=1.5 Hz), 2.52 (s, 3 H). ESI mass spectrum analysis m/z(relative intensity) 236 (M+H,100).

reactant | potassium carbonate | 22.60 mmol, 40.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-nitrophenyl) imidazoline-2-thione | 22.60 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(NCC1)=S | C9H9N3O2S
reactant | iodomethane | 23.05 mmol, 1.44 mL | IC | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 175 mL | CC(=O)C | C3H6O
solvent | water | 200 mL | O | H2O
product | 4-(2'-methylthioimidazol-1-yl)nitrobenzene | 5.29 g | CSC=1N(C=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2S
